US06043337
A mixture of 2,2,3,3,4,4,5,5-octafluoro-1,6-hexanediol (7.86 g), 4-fluorobenzaldehyde (1.24 g), NMP (10 mL), and potassium carbonate (4.14 g) was heated to 95-100° C. for 48 hrs. The mixture was further processed as described in Example 1 to provide 4-(6-hydroxy-2,2,3,3,4,4,5,5-octafluorohexyloxy)benzaldehyde.

reactant | 2,2,3,3,4,4,5,5-octafluoro-1,6-hexanediol | 7.86 g | FC(CO)(C(C(C(CO)(F)F)(F)F)(F)F)F | C6H6F8O2
reactant | 4-fluorobenzaldehyde | 1.24 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | potassium carbonate | 4.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | 4-(6-hydroxy-2,2,3,3,4,4,5,5-octafluorohexyloxy)benzaldehyde | OCC(C(C(C(COC1=CC=C(C=O)C=C1)(F)F)(F)F)(F)F)(F)F | C13H10F8O3
